2186-04-06 06:37:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   Patient became more conversant overnight. Complained of intractable
   rectal pain around 4am. She said nothing works for her, and she was
   discouraged that she's feeling the same pain as she was prior to the
   ketamine infusion. She did not want any further medications. But stated
   that she was "tired of being sick" and wanted a new body.
   Allergies:
   Urecholine (Oral) (Bethanechol Chloride)
   Lightheadedness
   Iodine; Iodine Containing
   Hives; Rash; pt
   [**Name (NI) 8984**] (Oral) (Tizanidine Hcl)
   shaking;
   Tigan (Oral) (Trimethobenzamide Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2186-4-6**] 03:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-6**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 63 (63 - 78) bpm
   BP: 116/68(79) {103/60(72) - 140/81(95)} mmHg
   RR: 16 (10 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     85 mL
                                                                    489 mL
   PO:
             TF:
   IVF:
                                                                     85 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    280 mL
   Urine:
                                                                    100 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                    209 mL
   Respiratory support
   SpO2: 97% on RA
   ABG: ///22/
   Physical Examination
   General: Alert, no acute distress
   HEENT: Sclera anicteric, EOMI, PEERLA, MMM, oropharynx clear.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Cooperative, follows commands. CN 2-12 intact and symmetric.
   Unable to assess strength due to lack of cooperation. Tone normal.
   Reflexes 1+ symmetric patellar and brachioradialis. Patient does not
   move extremities to command, though witnessed lifting of right arm to
   find remote. Toes downgoing bilaterally
   Labs / Radiology
   231 K/uL
   13.7 g/dL
   95 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.4 mEq/L
   19 mg/dL
   107 mEq/L
   136 mEq/L
   37.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2186-4-6**]  03:48 AM
   WBC
   7.0
   Hct
   37.7
   Plt
   231
   Cr
   0.8
   Glucose
   95
   Other labs: PT / PTT / INR:12.7/26.4/1.1, ALT / AST:20/26, Alk Phos / T
   Bili:99/0.7, LDH:189 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.1
   mg/dL
   Imaging: CT head
   IMPRESSION: No acute intracranial pathology including no hemorrhage.
   Assessment and Plan
   This is a  60 yo F with altered mental status s/p ketamine infusion.
   .
   #  Altered mental status: Secondary to ketamine infusion for pain
   control on [**4-5**]. Potential hallucinations, depersonalization related to
   ketamine. Patient has had similar sx in the setting of anesthesia. CT
   head negative for acute pathology. CBC, chem 7 within normal limits.
   Urine and serum tox negative. Toxicology and neurology consulted in ED
   who recommended no further interventions, just close monitoring. Narcan
   x2 administered in ED without effect. Patient alert, awake, though
   unable to converse on admission to MICU. Seems much improved this
   morning. Interacting appropriately.
   - q4 hour neuro checks
   - monitor RR and O2 sat for hypoventilation. Consider ABG if RR<12
   - follow up with toxicology and neurology this AM
   .
   #  Chronic pelvic and rectal pain: Patient on complicated outpatient
   pain regimen. Held all sedatives and narcotics with concern for
   respiratory depression.
   -restart home pain medications including fentanyl patch, lidocaine
   patch, Wellbutrin, Celexa, Nortryptilline, and Lyrica this AM
   -Psychiatry consult given that much of this seems to be related to
   depression. Prior records have recommended that the patient be
   evaluated by psychiatry, however she has not followed up with them.
   Patient seems frustrated and passively suicidal.
   .
   #  h/o hypothyroidism: Continue outpatient synthroid 125mcg po daily
   .
   # h/o Raynaud's syndrome: Continue ASA 325mg po daily
   .
   # h/o HTN: Patient on Amlodipine 5mg po daily.
   -consider restarting this AM
   .
   .
   # FEN: Maintenance IVF, replete electrolytes, advance diet as mental
   status clears
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: Confirmed full with health care proxy
   .
   # Communication: Patient. Son [**Name (NI) 464**] [**Name (NI) 8988**] is health care proxy [**Telephone/Fax (1) 8989**].
   .
   # Disposition: Call out to floor today. Will need social work and psych
   consult today.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-4-5**] 10:37 PM
   16 Gauge - [**2186-4-5**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   with assessment and plan. I am unsure this was a medication reaction.
   Quite important we make a major effort to help her obtain psychiatric
   care. She is now neurologically intact. Pain control per Pain Service
   with Methadone.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2186-4-6**] 17:39 ------